US07482462B2
60 mg of DMAP, 130 mg of DIEA and 192 mg of EDC are added to a solution of 155 mg of 4-bromo-2,5-dichloro-thiophene-3-sulfonamide and 230 mg of 1-(tert.butyloxycarbonyl)-piperidine-4-carboxylic acid in 8 ml of DMF. The mixture obtained is stirred for ca. 16 h at ca. 30°, solvent is evaporated and the evaporation residue is treated with EtAc. The mixture obtained is washed with aqueous 1 N HCl, aqueous saturated NaHCO3 and brine, and dried. Solvent from the organic phase obtained is evaporated and the evaporation residue is subjected to chromatography. 4-(4-Bromo-2,5-dichloro-thiophene-3-sulfonylaminocarbonyl)-piperidine-1-carboxylic acid tert.-butyl ester is obtained and lyophilized from 1,4-dioxane.

reactant | DIEA | 130 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 192 mg
reactant | 4-bromo-2,5-dichloro-thiophene-3-sulfonamide | 155 mg | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)N | C4H2BrCl2NO2S2
reactant | 1-(tert.butyloxycarbonyl)-piperidine-4-carboxylic acid | 230 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
catalyst | DMAP | 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-2,5-dichloro-thiophene-3-sulfonylaminocarbonyl)-piperidine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NS(=O)(=O)C1=C(SC(=C1Br)Cl)Cl | C15H19BrCl2N2O5S2
